US04775677
[3-Cyclohexyl-2-(cyclohexylimino)-4-oxo-5-thiazolidinylidene]acetic acid
A mixture of methyl [3-cyclohexyl-2-(cyclohexylimino)-4-oxo-5-thiazolidinylidene]acetate (5.0 g, 14 mmoles) and anhydrous lithium iodide (7.6 g, 57 mmoles) in N,N-dimethylformamide (30 mls) is heated under argon to reflux. After six hours the mixture is cooled, diluted with water, acidified with 4N HCl, and extracted twice with dichloromethane. The combined extracts are washed with brine and dried over MgSO4. The solvent is removed to afford a syrupy residue which evenually crystallizes. Recrystallization from acetonitrile gave the product (3.2 g), mp 189°-190° C.

reactant | methyl [3-cyclohexyl-2-(cyclohexylimino)-4-oxo-5-thiazolidinylidene]acetate | 14 mmoles, 5.0 g | C1(CCCCC1)N1C(SC(C1=O)=CC(=O)OC)=NC1CCCCC1 | C18H26N2O3S
reactant | lithium iodide | 57 mmoles, 7.6 g | [I-].[Li+]
reactant | HCl | 4N | Cl | ClH
solvent | N,N-dimethylformamide | 30 mls | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-Cyclohexyl-2-(cyclohexylimino)-4-oxo-5-thiazolidinylidene]acetic acid | 3.2 g | C1(CCCCC1)N1C(SC(C1=O)=CC(=O)O)=NC1CCCCC1 | C17H24N2O3S
